US05238601
0.73 g (19.1 mmol) of lithium aluminum hydride was added to 30 ml of dry ether, heat-refluxed for 1 hour and cooled to 10° C. on an iced water bath, and a solution of 5 g (25.5 mmol) of ethyl trans-4-n-propylcyclohexylcarboxylate in 30 ml of dry ether was gradually added dropwise thereto. After the addition, the mixture was stirred for 1 hour and further heat-refluxed for 1 hour, followed by treatment with ethyl acetate and with 6N-hydrochloric acid and pouring into 200 ml of iced water. The resultant mixture was extracted with isopropyl ether and the organic layer was successively washed with water, sodium hydroxide aqueous solution and water, followed by drying with magnesium sulfate, distilling-off of the solvent and purification by silica gel column chromatography to obtain 3.5 g of trans-4-n-propylcyclohexylmethanol.

reactant | lithium aluminum hydride | 19.1 mmol, 0.73 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl trans-4-n-propylcyclohexylcarboxylate | 25.5 mmol, 5 g | C(CC)[C@@H]1CC[C@H](CC1)C(=O)OCC | C12H22O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
product | trans-4-n-propylcyclohexylmethanol | 3.5 g | C(CC)[C@@H]1CC[C@H](CC1)CO | C10H20O
